US07989497B2
Step 2: 3-Amino-6-chloro-2-hydroxy-N-methoxy-N-ethyl-benzenesulfonamide
2-tert-Butyl-6-chloro-benzooxazole-7-sulfonic acid ethyl-methoxy-amide (2.7 g, 7.78 mmol) in dioxane (15 ml) was treated with a mixture of concentrated sulphuric acid (3.5 ml) and water (3.5 ml). The reaction mixture was heated at 80° C. for a total of 8 h and then allowed to cool to RT. Dioxane was removed in vacuo and the resulting aqueous mixture was treated with 1M NaOH (aq) until pH7 was attained. The reaction mixture was extracted with EtOAc, dried (MgSO4) and concentrated in vacuo to afford the title compound as a brown solid; [M+H]+ 281.1.

reactant | 2-tert-Butyl-6-chloro-benzooxazole-7-sulfonic acid ethyl-methoxy-amide | 7.78 mmol, 2.7 g | C(C)N(S(=O)(=O)C1=C(C=CC=2N=C(OC21)C(C)(C)C)Cl)OC | C14H19ClN2O4S
reactant | sulphuric acid | 3.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 3.5 ml | O | H2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 3-Amino-6-chloro-2-hydroxy-N-methoxy-N-ethyl-benzenesulfonamide | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N(CC)OC)O | C9H13ClN2O4S
